US06992087B2
Preparation of 5-(2,4-dichlorophenyl)-3,6-diethyl-N-[(1R,2S)-2-(2-methoxyethoxy)-2,3-dihydro-1H-inden-1-yl]pyrazin-2-amine
Following the procedure for the preparation of 5-(2,4-dichlorophenyl)-N-[(1R,2S)-2-ethoxy-2,3-dihydro-1H-inden-1-yl]-3,6-diethylpyrazin-2-amine but substituting 2-bromoethylmethylether and making non-critical variations provided the title compound as a light yellow syrup. IR (liq.) 3418, 2971, 2934, 2875, 1565, 1552, 1498, 1471, 1392, 1376, 1201, 1183, 1132, 1100, 748 cm−1; OAMS supporting ions at: ESI+ 485.8; MS (CI) m/z 486 (MH+); [α]25D=−102 (c 0.57, methylene chloride); Anal. Calcd for C26H29Cl2N3O2: C, 64.20; H, 6.01; N, 8.64. Found: C, 63.92; H, 6.14; N, 8.53.

reactant | 5-(2,4-dichlorophenyl)-N-[(1R,2S)-2-ethoxy-2,3-dihydro-1H-inden-1-yl]-3,6-diethylpyrazin-2-amine | ClC1=C(C=CC(=C1)Cl)C=1N=C(C(=NC1CC)N[C@H]1[C@H](CC2=CC=CC=C12)OCC)CC | C25H27Cl2N3O
reactant | 2-bromoethylmethylether | BrCCOC | C3H7BrO
product | 5-(2,4-dichlorophenyl)-3,6-diethyl-N-[(1R,2S)-2-(2-methoxyethoxy)-2,3-dihydro-1H-inden-1-yl]pyrazin-2-amine | ClC1=C(C=CC(=C1)Cl)C=1N=C(C(=NC1CC)N[C@H]1[C@H](CC2=CC=CC=C12)OCCOC)CC | C26H29Cl2N3O2
